US08211513B2
62.0 g (0.26 mol) of 2-fluoro-4-(5-propyltetrahydropyran-2-yl)phenol are initially introduced in 600 ml of dichloromethane at 0° C. together with 55.0 ml (0.40 mol) of triethylamine and 0.65 g (5.32 mmol) of DMAP. 45.0 ml (0.27 mol) of trifluoromethanesulfonic anhydride (Tf2O) are metered in, and the mixture is stirred at room temperature for 17 h. The batch is washed with water, and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried using sodium sulfate, and the solution is concentrated to dryness. The residue is purified by column chromatography, giving 2-fluoro-4-(trans-5-propyltetrahydropyran-2-yl)phenyl trifluoromethanesulfonate as a colourless liquid.

reactant | 2-fluoro-4-(5-propyltetrahydropyran-2-yl)phenol | 0.26 mol, 62.0 g | FC1=C(C=CC(=C1)C1OCC(CC1)CCC)O | C14H19FO2
reactant | triethylamine | 0.40 mol, 55.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.27 mol, 45.0 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | DMAP | 5.32 mmol, 0.65 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-fluoro-4-(trans-5-propyltetrahydropyran-2-yl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)[C@@H]1OC[C@H](CC1)CCC)F)(F)F | C15H18F4O4S
